US03998958
The hydrochloride salt of 2-imino-1-methylpiperidine (14.8 g.; 0.1 mole) is converted to free base by adding 10 ml. of 50% NaOH and extracting into benzene. After drying over K 2 CO 3, the benzene layer is stirred at room temperature and 8.84 g. (0.05 mole) of N-methyl-phenylcarbamoyl chloride (prepared according to the method of J. A. Aeschlimann, U.S. Pat. No. 2,449,440), dissolved in anhydrous benzene, is added dropwise to this solution. The mixture is stirred at room temperature overnight (about 17 hours ) and then filtered. The filtrate is taken to dryness is vacuo and the residue is dissolved in and recrystallized from hexane to give the product 1-methyl-3-(1-methyl-2 -piperidylidene)-1-phenylurea.

reactant | 2-imino-1-methylpiperidine | 0.1 mole, 14.8 g | N=C1N(CCCC1)C | C6H12N2
reactant | N-methyl-phenylcarbamoyl chloride | 0.05 mole | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-methyl-3-(1-methyl-2 -piperidylidene)-1-phenylurea | CN(C(=O)N=C1N(CCCC1)C)C1=CC=CC=C1 | C14H19N3O
